US07148226B2
(5-chloro-1-methyl-1H-benzimidazol-2-yl)methanol
4-chloro-N1-methylbenzene-1,2-diamine (15.0 g, 96 mmol) and glycolic acid (8.1 g, 106 mmol) were mixed together in a sealed tube. The mixture was heated at 150° C. for 5 hours before it was cooled down to room temperature. The residue was purified by flash column chromatography (0–5% MeOH in CH2Cl2) to give the product (8.5 g, 45% yield). 1H NMR (300 MHz, CDCl3) δ: 3.80 (s, 3 H), 4.86 (s, 2 H), 7.13–7.22 (m, 2 H), 7.62–7.64 (m, 1 H).

reactant | 4-chloro-N1-methylbenzene-1,2-diamine | 96 mmol, 15.0 g | ClC=1C=C(C(=CC1)NC)N | C7H9ClN2
reactant | glycolic acid | 106 mmol, 8.1 g | C(CO)(=O)O | C2H4O3
product | (5-chloro-1-methyl-1H-benzimidazol-2-yl)methanol | 8.5 g, 45% yield | ClC1=CC2=C(N(C(=N2)CO)C)C=C1 | C9H9ClN2O
